US07429596B2
7,7a-Dihydro-5-iodo-7-isopropyl-N-methyl-4aH-pyrrolo[2,3-d]pyrimidin-4-amine:
4-Chloro-7,7a-dihydro-5-iodo-7-isopropyl-4aH-pyrrolo[2,3-d]pyrimidine (0.3 g, 0.93 mmol) from above was placed within a 15 ml pressure tube. 2 M methylamine in THF (15 ml) was added, and the reaction was left to stir overnight. The volatiles were removed in vacuo, and the residue was dissolved in methanol, 5 ml silica gel were added, and the volatiles were removed in vacuo. The adhered product was purified by silica gel chromatography (ethyl acetate:hexanes), and the requisite fractions were pooled and evaporated in vacuo to yield the desired product (0.25 g, 85% yield). 1H NMR (399.6 MHz, CDCl3) δ 1.43 (6H, d, J=6.8 Hz), 3.13 (3H, d, J=4.8 Hz), 5.0 (1H, sp, J=6.8 Hz), 7.02 (1H, s), 8.35 (1H, s).

reactant | 4-Chloro-7,7a-dihydro-5-iodo-7-isopropyl-4aH-pyrrolo[2,3-d]pyrimidine | 0.93 mmol, 0.3 g | ClC=1C2C(N=CN1)N(C=C2I)C(C)C | C9H11ClIN3
reactant | methylamine | 2 M | CN | CH5N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 7,7a-Dihydro-5-iodo-7-isopropyl-N-methyl-4aH-pyrrolo[2,3-d]pyrimidin-4-amine | 0.25 g, 85% yield | IC1=CN(C2N=CN=C(C21)NC)C(C)C | C10H15IN4
